US09447083B2
2-bromo-4,6-dimethylphenol (1 g, 5 mmol) was dissolved in dimethoxyethane/water (2:1). Pyridin-3-ylboronic acid (0.62 g, 5 mmol) and Pd(dppf)Cl2 (0.20 g, 0.25 mmol), sodium carbonate (2.1 g, 25 mmol) were added thereto, followed by stirring for 1 hour under reflux. After the completion of the reaction, the reaction mixture was added with water, and extracted with ethyl acetate. The obtained organic layer was dried over magnesium sulfate, concentrated under reduced pressure, and purified by column chromatography to obtain 2,4-dimethyl-6-(pyridin-3-yl)phenol (0.7 g, 70%).

reactant | 2-bromo-4,6-dimethylphenol | 5 mmol, 1 g | BrC1=C(C(=CC(=C1)C)C)O | C8H9BrO
reactant | Pyridin-3-ylboronic acid | 5 mmol, 0.62 g | N1=CC(=CC=C1)B(O)O | C5H6BNO2
reactant | sodium carbonate | 25 mmol, 2.1 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | water | O | H2O
solvent | dimethoxyethane water | C(OC)COC.O
catalyst | Pd(dppf)Cl2 | 0.25 mmol, 0.20 g | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | 2,4-dimethyl-6-(pyridin-3-yl)phenol | 0.7 g, 70% | CC1=C(C(=CC(=C1)C)C=1C=NC=CC1)O | C13H13NO
